US04210655
6.15 g of sodium borohydride dissolved in 50 ml of water is added dropwise in the course of 30 minutes, with stirring and ice-water cooling, to a solution of 18.2 g of 1-methyl-2-(2-benzofuranyl)-pyridinium-iodide in 150 ml of methanol. Stirring is maintained for 1 hour at room temperature, and the light-yellow solution then poured into 1000 ml of water. The precipitating oil is extracted with chloroform; the chloroform extracts are dried over anhydrous sodium sulphate, and the solvent distilled off in vacuo. The oily residue is taken up in a little methylene chloride, and chromatographed through 150 g of aluminum oxide (2% water). The methylene chloride eluates yield after concentration by evaporation 13.2 g of 1-methyl-2-(2-benzofuranyl)-1,4,5,6-tetrahydropyridine in the form of light-yellow oil. This is dissoled in 130 ml of ethyl acetate and, after the addition of 1 g of palladium-charcoal catalyst (10%), hydrogenated at room temperature. After absorption of 935 ml of hydrogen in the course of 19 hours, hydrogenation ceases. The catalyst is filtered off, the filtrate concentrated in vacuo, and the residue distilled in high vacuum to obtain 1-methyl-2-(2-benzofuranyl)-piperidine as colourless oil, B.P. 93°-97° (0.02 Torr). The hydrochloride is obtained as colourless crystals, M.P. 188°-189°, by dissolving the distilled base in the fivefold amount of acetone, and neutralising the solution with a 2 N solution of hydrogen chloride in ethyl acetate.

reactant | sodium borohydride | 6.15 g | [BH4-].[Na+]
reactant | 1-methyl-2-(2-benzofuranyl)-pyridinium-iodide | 18.2 g | [I-].C[N+]1=C(C=CC=C1)C=1OC2=C(C1)C=CC=C2
solvent | water | 50 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 1000 ml | O | H2O
product | 1-methyl-2-(2-benzofuranyl)-piperidine | CN1C(CCCC1)C=1OC2=C(C1)C=CC=C2 | C14H17NO
